US07745641B2
4-Amino-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0940 g, 0.204 mmol) was dissolved in ethyl acetate (4.0 mL), and the solution was added with triethylamine (0.0570 mL, 0.408 mmol) and cyclopropanecarbonyl chloride (0.0280 mL, 0.306 mmol), followed by stirring at room temperature for 1.5 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (chloroform/methanol=85/15) to obtain 4-cyclopropylcarbonylamino-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0280 g, yield 26%).

reactant | 4-Amino-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.204 mmol, 0.0940 g | NC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H32N4O3
reactant | triethylamine | 0.408 mmol, 0.0570 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.306 mmol, 0.0280 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | ethyl acetate | 4.0 mL | C(C)(=O)OCC | C4H8O2
product | 4-cyclopropylcarbonylamino-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0280 g, yield 26% | C1(CC1)C(=O)NC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H36N4O4
